US07465731B2
To an ice-cooled solution of ethyl (2E)-3-[6-(4-piperidylamino)-3-pyridyl]acrylate dihydrochloride (309 mg) and Et3N (0.448 ml) in DMF (8 ml) was added benzoyl chloride (124 mg), the mixture was stirred at 23° C. for 1 hour. The mixed solution was poured into water (20 ml). The precipitate was collected, washed with water, dried under reduced pressure to give ethyl (2E)-3-{6-[(1-benzoyl-4-piperidyl)amino]-3-pyridyl}acrylate.

reactant | ethyl (2E)-3-[6-(4-piperidylamino)-3-pyridyl]acrylate dihydrochloride | 309 mg | Cl.Cl.N1CCC(CC1)NC1=CC=C(C=N1)/C=C/C(=O)OCC
reactant | Et3N | 0.448 ml | CCN(CC)CC | C6H15N
reactant | benzoyl chloride | 124 mg | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | water | 20 ml | O | H2O
solvent | DMF | 8 ml | CN(C)C=O | C3H7NO
product | ethyl (2E)-3-{6-[(1-benzoyl-4-piperidyl)amino]-3-pyridyl}acrylate | C(C1=CC=CC=C1)(=O)N1CCC(CC1)NC1=CC=C(C=N1)/C=C/C(=O)OCC | C22H25N3O3
